US04235916
To a Grignard-solution prepared from 130 grams of 4-chloro-1-methylpiperidine and 24 grams of magnesium turnings in 500 milliliters of dry tetrahydrofuran was added 174 grams of 2-methylthio-6-fluoro-thioxanthene-9-one in portions while stirring and cooling in an ice-salt mixture. The reaction temperature was kept below 10 degrees Centigrade. The cooling bath was then removed and the reaction mixture was stirred at 35-40 degrees Centigrade for 1.5 hours. The reaction mixture was then poured into a mixture of ice, water and ammonium chloride. The crystalline precipitate which was obtained upon cooling was sucked off, washed with water and dissolved in 10% aqueous acetic acid. The solution was treated with charcoal, extracted three times with 100 milliliters of ether and then made alkaline with 10 N sodium hydroxide solution. After cooling the precipitated base was sucked off, washed with water, suspended in 100 milliliters of acetone, filtered, again suspended in 100 milliliters of acetone, and then filtered and dried to yield 142 grams of 2-methylthio-6-fluoro-9-(1-methyl-4-piperidyl)-thioxanthen-9-ol which melted at 180-189 degrees Centigrade. The analytically pure compound melts at 192-195 degrees Centigrade after recrystallization from diethylether.

reactant | 4-chloro-1-methylpiperidine | 130 grams | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 24 grams | [Mg] | Mg
reactant | 2-methylthio-6-fluoro-thioxanthene-9-one | 174 grams | CSC1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)=O | C14H9FOS2
solvent | tetrahydrofuran | 500 milliliters | O1CCCC1 | C4H8O
product | 2-methylthio-6-fluoro-9-(1-methyl-4-piperidyl)-thioxanthen-9-ol | 142 grams | CSC1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)(O)C1CCN(CC1)C | C20H22FNOS2
